US04678792
(b) N-Formyl-N(2-chlorobenzyl)-2(3,4-dimethoxyphenyl)-ethylamine
N-(2-chlorobenzyl)-2-(3,4-dimethoxy-phenyl)-ethylamine (88.4 g, 0.29 mol) is mixed with chloral hydrate (52.5 g, 0.34 mol) and heated (120° C.) for 30 minutes. After cooling, ethyl acetate is added and the mixture is washed with water, dried and evaporated. Yield: 103 g.

reactant | N-(2-chlorobenzyl)-2-(3,4-dimethoxy-phenyl)-ethylamine | 0.29 mol, 88.4 g | ClC1=C(CNCCC2=CC(=C(C=C2)OC)OC)C=CC=C1 | C17H20ClNO2
reactant | chloral hydrate | 0.34 mol, 52.5 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Formyl-N(2-chlorobenzyl)-2(3,4-dimethoxyphenyl)-ethylamine | C(=O)N(CC1=C(C=CC=C1)Cl)CCC1=CC(=C(C=C1)OC)OC | C18H20ClNO3
